US06262089B1
c) (R)-1-[(2R,5S)-6-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2,5-dimethoxy-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 1.51 g (6.2 mmol) D-Proline benzyl ester hydrochloride and 643 mg (3.1 mmol) (2R,5S)-2,5Dimethoxy-hexanedioic acid afforded, after flash chromatography (gradient: 10-100% EtOAc/hexane then 10% MeOH/EtOAc), 643 mg (36%) of the title compound as a yellow oil. MS m/e (%): 581 (M+H+, 100).

reactant | D-Proline benzyl ester hydrochloride | 6.2 mmol, 1.51 g | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | (2R,5S)-2,5Dimethoxy-hexanedioic acid | 3.1 mmol, 643 mg | CO[C@@H](C(=O)O)CC[C@@H](C(=O)O)OC | C8H14O6
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | (R)-1-[(2R,5S)-6-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2,5-dimethoxy-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 643 mg, 36% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C([C@@H](CC[C@@H](C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)OC)OC)=O | C32H40N2O8
